US07053255B2
(1) Synthesis of 1-(2,2-diphenylvinyl)-3,5-dibromobenzene
Under an atmosphere of argon, 3,5-dibromobenzaldehyde (12.1 g, 46 L mmole) and diethyl diphenylmethylphosphonate (15 g, 49 mmole, 1.1 eq) were dissolved into dimethyl sulfoxide (DMSO) (60 ml). To the resultant solution, potassium t-butoxide (6.2 g, 55 mmole, 1.2 eq) was added in small portions and the obtained solution was stirred at the room temperature for 9 hours and left standing for one night. After water (60 ml) was added, the reaction mixture was subjected to extraction with ethyl acetate (250 ml). The obtained organic layer was washed with water (100 ml) and a saturated aqueous solution of sodium chloride (50 ml) and dried with magnesium sulfate. Then, the solvent was removed by distillation and a deep brown oil was obtained. The obtained oil was purified by the column chromatography (silica gel/hexane and hexane+3% dichloromethane, successively) and a white solid (14.0 g, 74%) was obtained.

reactant | 3,5-dibromobenzaldehyde | 46 L, 12.1 g | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
reactant | diethyl diphenylmethylphosphonate | 49 mmole, 15 g, 1.1 eq | C1(=CC=CC=C1)C(C1=CC=CC=C1)P(OCC)(OCC)=O | C17H21O3P
reactant | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
reactant | potassium t-butoxide | 55 mmole, 6.2 g, 1.2 eq | CC(C)([O-])C.[K+]
solvent | water | 60 ml | O | H2O
product | 1-(2,2-diphenylvinyl)-3,5-dibromobenzene | 14.0 g, 74% | C1(=CC=CC=C1)C(=CC1=CC(=CC(=C1)Br)Br)C1=CC=CC=C1 | C20H14Br2
